US07390818B2
A) N′-(4-Methoxyphenyl)acetohydrazide
10 g of 4-methoxyphenylhydrazine hydrochloride are dissolved in water and then triethylamine is added until the salt has been neutralized. Extraction is carried out with AcOEt and then the extract is evaporated to dryness to produce 8 g of precipitate composed of 4-methoxyphenyl-hydrazine. This compound is dissolved in 30 ml of ether and then a solution of 13 ml of acetic anhydride dissolved in 30 ml of ether is added dropwise. The mixture is stirred at 0° C. for 15 minutes and then the white precipitate formed is filtered off to produce 7.4 g of the expected compound.

reactant | 4-methoxyphenyl-hydrazine | COC1=CC=C(C=C1)NN | C7H10N2O
reactant | acetic anhydride | 13 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | ether | 30 ml | CCOCC | C4H10O
solvent | ether | 30 ml | CCOCC | C4H10O
product | N′-(4-Methoxyphenyl)acetohydrazide | 7.4 g | COC1=CC=C(C=C1)NNC(C)=O | C9H12N2O2
